* \\wsl.localhost\Ubuntu-22.04\home\omedeiro\nmem\src\nmem\simulation\spice_circuits\nmem_cell_read.asc
* Generated by LTspice 24.1.4 for Windows.
I1 0 N001 PULSE(0 {E_read} 210n 1n 1n 50n 400n 2)
I2 0 N003 PULSE(0 {I_read} 200n 1n 1n 40n 400n 2)
I3 0 N003 PULSE(0 {I_write} 100n 1n 1n 40n 100n 1)
I4 0 N001 PULSE(0 {E_write} 110n 1n 1n 25n 400n 2)
R1 N001 N002 1n
R2 N003 out 1n
R3 out 0 50
X§HL N002 N004 N005 0 tempL ichl irhl hTron_behav width_c=100n, width_h=100n, thick_c=23.6n, length_c=870n, R_h=300, Tsub=1.3, Tc=12.5, sheetRes=77.9, eta=3, Jsw_tilde=163G, Isupp_tilde=500u, Jconstr=100G, tau_on=5n, ICh_bias_on=100u, Ih_bias_on=530u const_width=100n substrate_temp=1.3 const_length=870n heater_resistance=300
X§HR N004 0 N006 0 tempR ichr irhr hTron_behav width_c=300n, width_h=100n, thick_c=23.6n, length_c=4.11u, R_h=300, Tsub=1.3, Tc=12.5, sheetRes=77.9, eta=3, Jsw_tilde=163G, Isupp_tilde=500u, Jconstr=100G, tau_on=5n, ICh_bias_on=100u, Ih_bias_on=530u const_width=300n const_length=4.11u substrate_temp=1.3 heater_resistance=300
I5 0 N001 PULSE(0 {E_clear} 400n 1n 1n 20n 500n 1)
I6 0 N003 PULSE(0 {-I_write} 500n 1n 1n 40n 400n 1)
R4 out 0 1G
L1 out N005 1n Rser=1n
L2 out N006 1n Rser=1n
.param E_clear=500u E_read=200u E_write=390u I_read=500u I_write=100u
.tran 0 1u 0 10n
.options reltol 1e-6
.step param I_read 0 1000u 50u
.lib hTron_behavioral.lib
.backanno
.end
