* \\wsl.localhost\Ubuntu-22.04\home\omedeiro\nmem\src\nmem\simulation\spice_circuits\nmem_cell_read.asc
* Generated by LTspice 24.1.4 for Windows.
I1 0 N001 PULSE(0 {E_read} 220n 3n 3n 40n 400n 2)
I2 0 N003 PULSE(0 {I_read} 200n 1n 1n 80n 400n 2)
I3 0 N003 PULSE(0 {I_write} 100n 1n 1n 80n 100n 1)
I4 0 N001 PULSE(0 {E_write} 120n 3n 3n 10n 400n 2)
R1 N001 N002 1n
R2 N003 out 1n
R3 out 0 50
I5 0 N001 PULSE(0 {E_clear} 400n 1n 1n 20n 500n 1)
I6 0 N003 PULSE(0 {-I_write} 500n 1n 1n 80n 400n 1)
R4 out 0 1G
L1 out N005 0.1n Rser=1n
L2 out N006 0.1n Rser=1n
X§HL N002 N004 N005 0 tempL N007 N009 hTron_behav chan_width=100n, heater_width=100n, chan_thickness=23.6n, chan_length=870n, sheet_resistance=77.9, heater_resistance=300, critical_temp=12.5, substrate_temp=1.3, eta=3, Jsw_tilde=190G, Isupp_tilde=500u, Jchanr=100G, tau_on=5n, ICh_bias_on=100u, Ih_bias_on=500u
X§HR N004 0 N006 0 tempR N008 N010 hTron_behav chan_width=300n, heater_width=100n, chan_thickness=23.6n, chan_length=4.11u, sheet_resistance=77.9, heater_resistance=300, critical_temp=12.5, substrate_temp=1.3, eta=3, Jsw_tilde=190G, Isupp_tilde=500u, Jchanr=100G, tau_on=5n, ICh_bias_on=100u, Ih_bias_on=500u
R§irhr N010 0 1
R§ichr N008 0 1
R§irhl N009 0 1
R§ichl N007 0 1
.param E_clear=500u E_read=250u E_write=395u I_read=570u I_write=200u
.tran 0 1u 0 100n
.options reltol 1e-6
.step param I_read 500u 850u 10u
.lib hTron_behavioral.lib
.backanno
.end
